US07432287B2
Preparation of 3-(6-ethanesulfonylpyridin-3-yloxy)-5-(2-hydroxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide
The compound of Production Example 117 was obtained as a colorless amorphous substance using the obtained 3-((1S)-2-(t-butyldimethylsiloxy)-1-methyl-ethoxy)-5-(6-ethanesulfonyl-pyridin-3-yloxy)-benzoic acid methyl ester and 3-amino-1-methylpyrazole, by the same method as in Production Example 2, a corresponding method, or a combination thereof with an ordinary method.

reactant | 3-((1S)-2-(t-butyldimethylsiloxy)-1-methyl-ethoxy)-5-(6-ethanesulfonyl-pyridin-3-yloxy)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC=1C=NC(=CC1)S(=O)(=O)CC)O[C@H](CO[Si](C)(C)C(C)(C)C)C)=O | C24H35NO7SSi
reactant | 3-amino-1-methylpyrazole | NC1=NN(C=C1)C | C4H7N3
product | 3-(6-ethanesulfonylpyridin-3-yloxy)-5-(2-hydroxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | C(C)S(=O)(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC(CO)C | C21H24N4O6S
